US04734126
15.2 g (0.22 mol) of 1,2,4-triazole were added to 0.46 g (0.02 mol) of sodium in 200 ml of n-propanol. The solution was heated to the boil, and 48.5 g (0.2 mol) of 2-(4-fluorophenoxymethyl)-2-(fluoro-tert.-butyl)-oxirane, dissolved in 50 ml of n-propanol, were added dropwise. The reaction solution was stirred under reflux for a further 48 hours and was concentrated, and 200 ml of ethyl acetate and 100 ml of water were added to the residue. The organic phase was separated off, washed twice with water, dried over sodium sulphate and concentrated. The residue was dissolved in ether, and the solution was gassed with hydrogen chloride. The precipitate formed was filtered off under suction and washed with ether, and ethyl acetate/1N sodium hydroxide solution were added. The crude product obtained was purified over a silica gel column (mobile phase: methylene chloride/ethyl acetate, 2:1), and recrystallised from acetonitrile. 17.9 g (29% of theory) of 4-fluoro-2-(4-fluorophenoxymethyl)-3,3 -dimethyl-1-(1,2,4-triazol-1-yl)-butan-2-ol of melting point 97° to 99° C. were obtained.

reactant | 1,2,4-triazole | 0.22 mol, 15.2 g | N1N=CN=C1 | C2H3N3
reactant | sodium | 0.02 mol, 0.46 g | [Na] | Na
reactant | 2-(4-fluorophenoxymethyl)-2-(fluoro-tert.-butyl)-oxirane | 0.2 mol, 48.5 g | FC1=CC=C(OCC2(OC2)C(CF)(C)C)C=C1 | C13H16F2O2
solvent | n-propanol | 200 ml | C(CC)O | C3H8O
solvent | n-propanol | 50 ml | C(CC)O | C3H8O
product | 4-fluoro-2-(4-fluorophenoxymethyl)-3,3 -dimethyl-1-(1,2,4-triazol-1-yl)-butan-2-ol | 17.9 g, 29% | FCC(C(CN1N=CN=C1)(O)COC1=CC=C(C=C1)F)(C)C | C15H19F2N3O2
